US05679623
Example H12: 2,3-Dihydro-3,4-dimethyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole (compound no. 4.2 in table 4).
12.6 g of 2,3-dihydro-3,4-dimethyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole hydrochloride are dissolved in 150 ml of water. The solution is saturated with sodium chloride and treated with 100 ml of tetrahydrofuran. The mixture is then rendered weakly alkaline using aqueous sodium hydroxide solution (30%). The phases are separated, and the aqueous phase is extracted nine times using in each case 100 ml of tetrahydrofuran. The combined tetrahydrofuran phases are dried using magnesium sulfate and evaporated, yielding the rifle compound in the form of yellow crystals melting at 186°-187°.

reactant | 2,3-dihydro-3,4-dimethyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole hydrochloride | 12.6 g | Cl.CN1C(N(C=C1C)N=CC=1C=NC=CC1)=O
reactant | sodium chloride | [Cl-].[Na+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | 2,3-Dihydro-3,4-dimethyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole | CN1C(N(C=C1C)N=CC=1C=NC=CC1)=O | C11H12N4O
